US08912186B2
2) N-(2-Aminophenyl)-3-(4-chlorophenyl)glutaramic acid
The solution of commercial 1,2-phenylenediamine (1.08 g) and 3-(4-chlorophenyl)glutaric anhydride (2.25 g) in 1,4-dioxane (7 ml) was stirred at rt for 10 min. A voluminous precipitate is formed which is kept at rt for further 50 min. The thick slurry is heated to reflux with methanol, cooled to rt, isolated by suction filtration, and washed with methanol. After drying in vacuo N-(2-aminophenyl)-3-(4-chlorophenyl)glutaramic acid (2.1 g) is obtained as off-white solid.

reactant | 1,2-phenylenediamine | 1.08 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 3-(4-chlorophenyl)glutaric anhydride | 2.25 g | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
reactant | methanol | CO | CH4O
solvent | 1,4-dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | N-(2-Aminophenyl)-3-(4-chlorophenyl)glutaramic acid | NC1=C(C=CC=C1)NC(CC(CC(=O)O)C1=CC=C(C=C1)Cl)=O | C17H17ClN2O3
